US06352982B1
A tetrahydrofuran (60 ml) solution of N-methyl-N-methyloxy-2-amino-5-chlorobenzamide (4.96 g) and 2-bromo-5-tert-butoxycarbonylaminomethylthiophene (5.45 g) was cooled to −78° C. To the solution was gradually added dropwise a hexane solution of n-butyl lithium (1.6 mol/L) (47 ml). To the mixture were further added water (200 ml) and acetic acid ethyl ester (200 ml). The organic layer was washed with water and dried over anhydrous MgSO4, followed by distilling off the solvent. The residual oily compound was purified by means of a silica gel column chromatography to give 2-(2-tert-butoxycarbonylaminomethylthiophen-5-yl)carbonyl-4-chloroaniline (0.5 g) as a yellow oily product. To a methanol (8 ml) solution of this product (0.15 g) was added sodium borohydride (60 mg). The mixture was stirred for 30 minutes at room temperature, to which was added acetic acid ethyl ester (100 ml). The mixture was washed with water and dried over anhydrous MgSO4. The solvent was then distilled off. To a methanol (5 ml) solution of the residue were added 4-biphenylcarbaldehyde (100 mg) and acetic acid (40 mg). The mixture was stirred for 10 minutes at room temperature, to which was added sodium cyano borohydride (40 mg). The mixture was stirred for 30 minutes at 60° C., to which was added acetic acid ethyl ester (50 ml). The mixture was washed with water and dried over anhydrous MgSO4. The solvent was then distilled off to leave 0.2 g of a residual compound.

reactant | tetrahydrofuran | 60 ml | O1CCCC1 | C4H8O
reactant | N-methyl-N-methyloxy-2-amino-5-chlorobenzamide | 4.96 g | CN(C(C1=C(C=CC(=C1)Cl)N)=O)OC | C9H11ClN2O2
reactant | 2-bromo-5-tert-butoxycarbonylaminomethylthiophene | 5.45 g | BrC=1SC(=CC1)CNC(=O)OC(C)(C)C | C10H14BrNO2S
reactant | n-butyl lithium | 1.6 mol/L, 47 ml | C(CCC)[Li]
solvent | acetic acid ethyl ester | 200 ml | C(C)OC(C)=O | C4H8O2
solvent | water | 200 ml | O | H2O
solvent | hexane | CCCCCC | C6H14
product | 2-(2-tert-butoxycarbonylaminomethylthiophen-5-yl)carbonyl-4-chloroaniline | 0.5 g | C(C)(C)(C)OC(=O)NCC=1SC(=CC1)C(=O)C1=C(N)C=CC(=C1)Cl | C17H19ClN2O3S
